US05389641
23h) Methyl 2-butyl-1-[p-[4-(1H-tetrazol-5-yl)pyrimidin-5-yl]benzyl]benzimidazole-7-carboxylate
A solution of methyl 2-butyl-1-[p-(4-cyanopyrimidin-5-yl)benzyl]benzimidazole-7-carboxylate (0.18 g, 0.4 mmol) and trimethyltin azide (0.27 g, 1.3 mmol) in toluene (5 ml) was heated under reflux for 28 hours. After removal of the solvent by evaporation, the residue was purified by column chromatography on silica gel. Recrystallization from ethyl acetate-isopropyl ether afforded colorless powders (40 mg, 20%), m.p. 215°-220° C.

reactant | methyl 2-butyl-1-[p-(4-cyanopyrimidin-5-yl)benzyl]benzimidazole-7-carboxylate | 0.4 mmol, 0.18 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=NC=NC1)C#N)C(=CC=C2)C(=O)OC | C25H23N5O2
reactant | trimethyltin azide | 1.3 mmol, 0.27 g | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-butyl-1-[p-[4-(1H-tetrazol-5-yl)pyrimidin-5-yl]benzyl]benzimidazole-7-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=NC=NC1)C1=NN=NN1)C(=CC=C2)C(=O)OC | C25H24N8O2
